US09278973B2
Methyl 5-(1H-benzo[d][1,2,3]triazol-6-yl)-7-oxo-4,7-dihydro-[1,2,4]triazolo[1,5-α]pyrimidine-2-carboxylate (80 mg, 1.0 eq) in methanolic ammonia (8 ml) was stirred overnight at 80° C. Then the pH value of the solution was adjusted to pH 4 with HCL (3N). The solids were collected by filtration, washed with water (10 ml) and purified by prep-HPLC to afford 5-(1H-benzo[d][1,2,3]triazol-6-yl)-7-oxo-4,7-dihydro-[1,2,4]triazolo[1,5-α]pyrimidine-2-carboxamide as a white solid (34.8 mg, 45%).

reactant | Methyl 5-(1H-benzo[d][1,2,3]triazol-6-yl)-7-oxo-4,7-dihydro-[1,2,4]triazolo[1,5-α]pyrimidine-2-carboxylate | 80 mg, 1.0 eq | N1N=NC2=C1C=C(C=C2)C=2NC=1N(C(C2)=O)N=C(N1)C(=O)OC | C13H9N7O3
reactant | ammonia | 8 ml | N | H3N
product | 5-(1H-benzo[d][1,2,3]triazol-6-yl)-7-oxo-4,7-dihydro-[1,2,4]triazolo[1,5-α]pyrimidine-2-carboxamide | 34.8 mg, 45% | N1N=NC2=C1C=C(C=C2)C=2NC=1N(C(C2)=O)N=C(N1)C(=O)N | C12H8N8O2
